US04528133
Condensation of BOC-Asp(OBzl) with Ala-Ala-Pro-NH-Et is achieved by the carbodiimide method as described in Example 1. Subsequent debenzylation by the procedure in Example 1 gives BOC-Asp-Ala-Ala-Pro-NH-Et in a yield of 68%; Rf =0.75(S)1. Acylation with undecanolylchloride, by the procedure in Example 3, produces the title product, Nα -Undecanoylaspartyl-alanyl-alanyl-proline ethylamide; m.p. 184°-189° C. (from water). Amino acid composition analysis yields; Asp 1.02, Pro 1.04, Ala 1.97.

reactant | BOC-Asp(OBzl) | N([C@@H](CC(OCC1=CC=CC=C1)=O)C(=O)O)C(=O)OC(C)(C)C | C16H21NO6
reactant | Ala-Ala-Pro-NH-Et | N[C@@H](C)C(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)NCC)CCC1 | C13H24N4O3
reactant | carbodiimide | N=C=N | CH2N2
product | BOC-Asp-Ala-Ala-Pro-NH-Et | yield of 68% | N([C@@H](CC(O)=O)C(=O)N[C@@H](C)C(=O)N[C@@H](C)C(=O)N1[C@H](C(=O)NCC)CCC1)C(=O)OC(C)(C)C | C22H37N5O8
